US08207199B2
To a mixture of pyridin-3-yl 4-hydroxypiperidine-1-carboxylate (300 mg), 5-phenyl-1H-tetrazole (217 mg), triphenyl phosphine (460 mg), and THF (3 mL) was added dropwise a 2.2 M solution of diethyl azodicarboxylate in toluene (0.8 mL), followed by stirring at room temperature overnight. The reaction liquid was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol=99/1 to 90/10), and purified again by silica gel column chromatography (hexane/ethyl acetate=70/30 to 0/100). To the purified product was added hexane/ethyl acetate, followed by stirring, and then the resulting solid was collected by filtration and dried to obtain pyridin-3-yl 4-(5-phenyl-2H-tetrazol-2-yl)piperidine-1-carboxylate (250 mg) as a colorless solid.

reactant | pyridin-3-yl 4-hydroxypiperidine-1-carboxylate | 300 mg | OC1CCN(CC1)C(=O)OC=1C=NC=CC1 | C11H14N2O3
reactant | 5-phenyl-1H-tetrazole | 217 mg | C1(=CC=CC=C1)C1=NN=NN1 | C7H6N4
reactant | triphenyl phosphine | 460 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 0.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | pyridin-3-yl 4-(5-phenyl-2H-tetrazol-2-yl)piperidine-1-carboxylate | 250 mg | C1(=CC=CC=C1)C=1N=NN(N1)C1CCN(CC1)C(=O)OC=1C=NC=CC1 | C18H18N6O2
